US08202865B2
Step 3: 4-amino-2-fluoro-5-methoxybenzoic acid
Methyl 4-amino-2-fluoro-5-methoxybenzoate (100 mg; 0.50 mmol; 1 eq.) was dissolved in MeOH (2 mL). NaOH (0.50 mL; 5 M; 2.51 mmol; 5 eq.) was added and the mixture was heated at 50° C. overnight. The solvents were evaporated. EtOAc was added and the resulting solution was washed with NH4Cl sat. The aqueous phase was extracted with EtOAc. Combined organic phases were dried over MgSO4, filtrated and evaporated, affording the title compound (92 mg; 99%). HPLC (Method A) Rt 1.92 min (Purity: 96.4%).

reactant | Methyl 4-amino-2-fluoro-5-methoxybenzoate | 0.50 mmol, 100 mg, 1 eq. | NC1=CC(=C(C(=O)OC)C=C1OC)F | C9H10FNO3
reactant | NaOH | 2.51 mmol, 5 M, 0.50 mL, 5 eq. | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 4-amino-2-fluoro-5-methoxybenzoic acid | 92 mg, 99% | NC1=CC(=C(C(=O)O)C=C1OC)F | C8H8FNO3
